US07220856B2
Preparation of (2S)-2-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]propanoic acid:
A mixture of (2S)-2-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-propanoic acid-methyl ester (˜50 mg, 0.13 mmol), LiOH (100 mg) in THF-H2O (5 mL, 5:1) was stirred at rt for 3 h. The mixture was diluted with H2O, and acidified with 1.0 N HCl to pH˜5. The crude acid was obtained as a white solid by filtration.

reactant | (2S)-2-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-propanoic acid-methyl ester | 0.13 mmol, ˜50 mg | COC([C@H](C)NC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)N)=O | C18H22ClN5O3
reactant | LiOH | 100 mg | [Li+].[OH-]
reactant | HCl | 1.0 N | Cl | ClH
solvent | THF H2O | 5 mL | C1CCOC1.O
solvent | H2O | O | H2O
product | (2S)-2-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]propanoic acid | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@H](C(=O)O)C)Cl | C17H20ClN5O3
